US07981888B2
1-(4-bromobutoxy)-2,3-dichlorobenzene
This example was prepared by substituting 3-bromopropanol with 4-bromobutanol and substituting 1-naphthol with 2,3-dichlorophenol in EXAMPLE 31A.

reactant | 4-bromobutanol | BrCCCCO | C4H9BrO
reactant | 2,3-dichlorophenol | ClC1=C(C=CC=C1Cl)O | C6H4Cl2O
product | 1-(4-bromobutoxy)-2,3-dichlorobenzene | BrCCCCOC1=C(C(=CC=C1)Cl)Cl | C10H11BrCl2O
